US06509345B2
9-Hydroxy-9,12-dihydro-7H-cyclopenta[6,7]indolizino[1,2-b]-quinoline-7,10(8H)-dione
0.6 mmol (18 mg) of NaH as an 80% dispersion in mineral oil is added in small fractions to a solution, stirred at 0° C., of 0.6 mmol (100 mg) of the compound described in Preparation A in 20 ml of a DME/DMF mixture (16/4 (v/v)). The mixture is stirred at 0° C. for 10 minutes before the addition, at that temperature, of 2.4 mmol (210 mg) of LiBr. After returning to room temperature, the reaction mixture is stirred for ¼ hour before the addition of 0.66 mmol (200 mg) of 2-bromo-3-bromomethylquinoline. The reaction mixture is then heated at 80° C. for 20 hours and, after returning to room temperature, subsequently poured into a large excess of water. The precipitate that forms is filtered off and washed with ether to yield the expected product.

reactant | NaH | 0.6 mmol, 18 mg | [H-].[Na+]
reactant | LiBr | 2.4 mmol, 210 mg | [Li+].[Br-]
reactant | 2-bromo-3-bromomethylquinoline | 0.66 mmol, 200 mg | BrC1=NC2=CC=CC=C2C=C1CBr | C10H7Br2N
reactant | water | O | H2O
reactant | DME DMF | 20 ml | COCCOC.CN(C)C=O
product | 9-Hydroxy-9,12-dihydro-7H-cyclopenta[6,7]indolizino[1,2-b]-quinoline-7,10(8H)-dione | OC1CC(C2=C1C(N1CC=3C(=NC4=CC=CC=C4C3)C1=C2)=O)=O | C18H12N2O3
